US05082856
Sodium borohydride (500 mg, 13 mmol) was added to an ethanol solution (100 ml) of 4.59 g (13 mmol) of ethyl 5-pentadecanoylpyrrole-3-carboxylate prepared in the same manner as in Synthetic Example 4. The mixture was stirred at room temperature for 16 hours. After a removal of the ethanol under reduced pressure, the mixture was treated with water, extracted with ether, washed with water and dried over anhydrous magnesium sulfate. A removal of the solvent under reduced pressure quantitatively gave an alcoholic compound. To the resulting product were added 3.53 g (63 mmol) of potassium hydroxide in ethanol (35 ml) and water (12 ml), and the mixture was heated under reflux for 5 days. The resulting mixture was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. After removing the solvent under reduced pressure, the residue was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/2) to obtain 2.33 g (60 % yield) of 5-(1-pentadecenyl)pyrrole-3-carboxylic acid, m.p. 90°-96° C.

reactant | Sodium borohydride | 13 mmol, 500 mg | [BH4-].[Na+]
reactant | ethyl 5-pentadecanoylpyrrole-3-carboxylate | 13 mmol, 4.59 g | C(CCCCCCCCCCCCCC)(=O)C1=CC(=CN1)C(=O)OCC | C22H37NO3
reactant | potassium hydroxide | 63 mmol, 3.53 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(1-pentadecenyl)pyrrole-3-carboxylic acid | 2.33 g, 60 % yield | C(=CCCCCCCCCCCCCC)C1=CC(=CN1)C(=O)O | C20H33NO2
